USRE033833
A mixture of 2.2 parts of 3-bromo-1-propanamine hydrobromide, 4.1 parts of 1-[(4-fluorophenyl)methyl]-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine, 2.2 parts of sodium carbonate and 135 parts of tetrahydrofuran was stirred overnight at room temperature. The reaction mixture was further stirred and refluxed for 3 hours. The mixture was filtered and the filtrate was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume), saturated with ammonia, as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 2.5 parts of 1-[(4-fluoro-phenyl)methyl]-N-[1-[2-[(5,6-dihydro-4H-1,3-2-yl)amino]ethyl]-4-piperidinyl[-1H-benzimidazol-2-amine monohydrate; mp 121.4° C. (compound 117).

reactant | 3-bromo-1-propanamine hydrobromide | Br.BrCCCN
reactant | 1-[(4-fluorophenyl)methyl]-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN=C=S | C22H24FN5S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1H-benzimidazol-2-amine monohydrate | O.N1C(=NC2=C1C=CC=C2)N | InChI=1S/C7H7N3.H2O/c8-7-9-5-3-1-2-4-6(5)10-7;/h1-4H,(H3,8,9,10);1H2
